US05463063
To a stirred solution of 2-phthalimido-4-methylpentanoic acid (1.32 g, 5.0 mmol) in tetrahydrofuran (25 mL) are added carbonyldiimidazole (0.81 g, 5.0 mmol) and a few crystals of 4-N,N-dimethylaminopyridine followed by 15 mL of tetrahydrofuran. The reaction mixture is stirred at room temperature for 1 hour, then 1 mL of concentrated ammonium hydroxide is added. After 10 minutes, the reaction mixture is diluted with 50 mL water. The resulting slurry is partially concentrated to remove the tetrahydrofuran and filtered. The solid is washed with water and dried in vacuo (60° C., <1 mm) to afford 1.16 g (89%) of 2-phthalimido-4-methylpentanamide as a white powder: mp 173°-176° C.; 1H NMR (dmso-d6, 250 MHz) δ 7.95-7.79 (m, 4 H, Ar), 7.61 (br s, 1 H, CONH2), 7.22 (br s, 1 H, CONH2), 4.73- 4.60 (m, 1 H ), 2.30-2.10 (m, 1 H), 1.95-1.80 (m, 1H), 1.45-1.25 (m, 1H); 13C NMR (dmso-d6) δ: 170.4, 167.7, 134.4, 131.5, 123.1, 51.3, 36.4, 24.7, 23.2, 20.6. Anal. Calculated for C14H16N2O3. Theoretical: C, 64.60; H, 6.20; N, 10.76. Found: C, 64.63; H, 6.11; N, 10.70.

reactant | 2-phthalimido-4-methylpentanoic acid | 5.0 mmol, 1.32 g | C1(C=2C(C(N1C(C(=O)O)CC(C)C)=O)=CC=CC2)=O | C14H15NO4
reactant | carbonyldiimidazole | 5.0 mmol, 0.81 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ammonium hydroxide | 1 mL | [OH-].[NH4+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-phthalimido-4-methylpentanamide | 1.16 g, 89% | C1(C=2C(C(N1C(C(=O)N)CC(C)C)=O)=CC=CC2)=O | C14H16N2O3
